simulator lang = spectre 
global 0 
parameters l_cs_driver=382.2n l_sw_driver=60n m_cs_driver=12 m_sw_driver=20 R_driver=48.34 vbias_cs_driver=369.8m w_cs_driver=8.431u w_sw_driver=3u vbias_SW_cas=1.896 vbias_cs_cas=749.7m vbias_cs=404.3m v_swing=297.5m l_cs=746.1n l_cs_cas=120n l_sw=60n l_sw_cas=280n w_cs=1.035u w_cs_cas=375n w_sw=396.8n w_sw_cas=400n adcfullscal=1 amp_sine=0.499 freq_sine=9.015G fs=20G os_sine=0.5 tfall=10p trise=10p vdd=1 v_high=1 R=25 
include "/home/shiyusu1/workarea_TSMC65_9M/tsmcN65_mc_shares.scs" section = TT 
subckt cs_1 MSB_cas_d MSB_cur_d MSB_vbias_sn MSB_vbias_sp gnd inn inp ncas ncur_MSB outn outp vbias vdd 
	M0 ( outn vbias MSB_vbias_sn gnd ) nmos l=l_sw_cas w=w_sw_cas*2 multi=1 nf=2 sigma=1  
	M7 ( outp vbias MSB_vbias_sp gnd ) nmos l=l_sw_cas w=w_sw_cas*2 multi=1 nf=2 sigma=1  
	M16 ( net018 ncur_MSB gnd gnd ) nmos l=l_cs w=w_cs*30 multi=1 nf=30 sigma=1  
	M18 ( vdd inn net017 gnd ) nmos l=l_sw w=w_sw*30 multi=1 nf=30 sigma=1  
	M17 ( net017 ncas net018 gnd ) nmos l=l_cs_cas w=w_cs_cas*30 multi=1 nf=30 sigma=1  
	M19 ( vdd inp net017 gnd ) nmos l=l_sw w=w_sw*30 multi=1 nf=30 sigma=1  
	M15 ( MSB_vbias_sp inp MSB_cas_d gnd ) nmos l=l_sw w=w_sw*2 multi=1 nf=2 sigma=1  
	M14 ( MSB_vbias_sn inn MSB_cas_d gnd ) nmos l=l_sw w=w_sw*2 multi=1 nf=2 sigma=1  
	LSB1_tail ( MSB_cas_d ncas MSB_cur_d gnd ) nmos l=l_cs_cas w=w_cs_cas*2 multi=1 nf=2 sigma=1  
	MSB_tail ( MSB_cur_d ncur_MSB gnd gnd ) nmos l=l_cs w=w_cs*2 multi=1 nf=2 sigma=1  
ends cs_1 
subckt cs_2 MSB_cas_d MSB_cur_d MSB_vbias_sn MSB_vbias_sp gnd inn inp ncas ncur_MSB outn outp vbias vdd 
	M0 ( outn vbias MSB_vbias_sn gnd ) nmos l=l_sw_cas w=w_sw_cas*4 multi=1 nf=4 sigma=1  
	M7 ( outp vbias MSB_vbias_sp gnd ) nmos l=l_sw_cas w=w_sw_cas*4 multi=1 nf=4 sigma=1  
	M16 ( net018 ncur_MSB gnd gnd ) nmos l=l_cs w=w_cs*28 multi=1 nf=28 sigma=1  
	M18 ( vdd inn net017 gnd ) nmos l=l_sw w=w_sw*28 multi=1 nf=28 sigma=1  
	M17 ( net017 ncas net018 gnd ) nmos l=l_cs_cas w=w_cs_cas*28 multi=1 nf=28 sigma=1  
	M19 ( vdd inp net017 gnd ) nmos l=l_sw w=w_sw*28 multi=1 nf=28 sigma=1  
	M15 ( MSB_vbias_sp inp MSB_cas_d gnd ) nmos l=l_sw w=w_sw*4 multi=1 nf=4 sigma=1  
	M14 ( MSB_vbias_sn inn MSB_cas_d gnd ) nmos l=l_sw w=w_sw*4 multi=1 nf=4 sigma=1  
	LSB1_tail ( MSB_cas_d ncas MSB_cur_d gnd ) nmos l=l_cs_cas w=w_cs_cas*4 multi=1 nf=4 sigma=1  
	MSB_tail ( MSB_cur_d ncur_MSB gnd gnd ) nmos l=l_cs w=w_cs*4 multi=1 nf=4 sigma=1  
ends cs_2 
subckt cs_4 MSB_cas_d MSB_cur_d MSB_vbias_sn MSB_vbias_sp gnd inn inp ncas ncur_MSB outn outp vbias vdd 
	M0 ( outn vbias MSB_vbias_sn gnd ) nmos l=l_sw_cas w=w_sw_cas*8 multi=1 nf=8 sigma=1  
	M7 ( outp vbias MSB_vbias_sp gnd ) nmos l=l_sw_cas w=w_sw_cas*8 multi=1 nf=8 sigma=1  
	M17 ( net017 ncas net018 gnd ) nmos l=l_cs_cas w=w_cs_cas*24 multi=1 nf=24 sigma=1  
	M18 ( vdd inn net017 gnd ) nmos l=l_sw w=w_sw*24 multi=1 nf=24 sigma=1  
	M16 ( net018 ncur_MSB gnd gnd ) nmos l=l_cs w=w_cs*24 multi=1 nf=24 sigma=1  
	M19 ( vdd inp net017 gnd ) nmos l=l_sw w=w_sw*24 multi=1 nf=24 sigma=1  
	M15 ( MSB_vbias_sp inp MSB_cas_d gnd ) nmos l=l_sw w=w_sw*8 multi=1 nf=8 sigma=1  
	M14 ( MSB_vbias_sn inn MSB_cas_d gnd ) nmos l=l_sw w=w_sw*8 multi=1 nf=8 sigma=1  
	LSB1_tail ( MSB_cas_d ncas MSB_cur_d gnd ) nmos l=l_cs_cas w=w_cs_cas*8 multi=1 nf=8 sigma=1  
	MSB_tail ( MSB_cur_d ncur_MSB gnd gnd ) nmos l=l_cs w=w_cs*8 multi=1 nf=8 sigma=1  
ends cs_4 
subckt cs_8 MSB_cas_d MSB_cur_d MSB_vbias_sn MSB_vbias_sp gnd inn inp ncas ncur_MSB outn outp vbias vdd 
	M0 ( outn vbias MSB_vbias_sn gnd ) nmos l=l_sw_cas w=w_sw_cas*16 multi=1 nf=16 sigma=1  
	M7 ( outp vbias MSB_vbias_sp gnd ) nmos l=l_sw_cas w=w_sw_cas*16 multi=1 nf=16 sigma=1  
	M19 ( vdd inp net28 gnd ) nmos l=l_sw w=w_sw*16 multi=1 nf=16 sigma=1  
	M18 ( vdd inn net28 gnd ) nmos l=l_sw w=w_sw*16 multi=1 nf=16 sigma=1  
	M17 ( net28 ncas net29 gnd ) nmos l=l_cs_cas w=w_cs_cas*16 multi=1 nf=16 sigma=1  
	M16 ( net29 ncur_MSB gnd gnd ) nmos l=l_cs w=w_cs*16 multi=1 nf=16 sigma=1  
	M15 ( MSB_vbias_sp inp MSB_cas_d gnd ) nmos l=l_sw w=w_sw*16 multi=1 nf=16 sigma=1  
	M14 ( MSB_vbias_sn inn MSB_cas_d gnd ) nmos l=l_sw w=w_sw*16 multi=1 nf=16 sigma=1  
	LSB1_tail ( MSB_cas_d ncas MSB_cur_d gnd ) nmos l=l_cs_cas w=w_cs_cas*16 multi=1 nf=16 sigma=1  
	MSB_tail ( MSB_cur_d ncur_MSB gnd gnd ) nmos l=l_cs w=w_cs*16 multi=1 nf=16 sigma=1  
ends cs_8 
subckt cs_16 MSB_cas_d MSB_cur_d MSB_vbias_sn MSB_vbias_sp gnd inn inp ncas ncur_MSB outn outp vbias 
	M0 ( outn vbias MSB_vbias_sn gnd ) nmos l=l_sw_cas w=w_sw_cas*32 multi=1 nf=32 sigma=1  
	M7 ( outp vbias MSB_vbias_sp gnd ) nmos l=l_sw_cas w=w_sw_cas*32 multi=1 nf=32 sigma=1  
	M15 ( MSB_vbias_sp inp MSB_cas_d gnd ) nmos l=l_sw w=w_sw*32 multi=1 nf=32 sigma=1  
	M14 ( MSB_vbias_sn inn MSB_cas_d gnd ) nmos l=l_sw w=w_sw*32 multi=1 nf=32 sigma=1  
	LSB1_tail ( MSB_cas_d ncas MSB_cur_d gnd ) nmos l=l_cs_cas w=w_cs_cas*32 multi=1 nf=32 sigma=1  
	MSB_tail ( MSB_cur_d ncur_MSB gnd gnd ) nmos l=l_cs w=w_cs*32 multi=1 nf=32 sigma=1  
ends cs_16 
subckt cs_array_8b gnd inn_lsb\<3\> inn_lsb\<2\> inn_lsb\<1\> inn_lsb\<0\> inn_msb\<14\> inn_msb\<13\> inn_msb\<12\> inn_msb\<11\> inn_msb\<10\> inn_msb\<9\> inn_msb\<8\> inn_msb\<7\> inn_msb\<6\> inn_msb\<5\> inn_msb\<4\> inn_msb\<3\> inn_msb\<2\> inn_msb\<1\> inn_msb\<0\> inp_lsb\<3\> inp_lsb\<2\> inp_lsb\<1\> inp_lsb\<0\> inp_msb\<14\> inp_msb\<13\> inp_msb\<12\> inp_msb\<11\> inp_msb\<10\> inp_msb\<9\> inp_msb\<8\> inp_msb\<7\> inp_msb\<6\> inp_msb\<5\> inp_msb\<4\> inp_msb\<3\> inp_msb\<2\> inp_msb\<1\> inp_msb\<0\> outn_lsb\<3\> outn_lsb\<2\> outn_lsb\<1\> outn_lsb\<0\> outn_msb\<14\> outn_msb\<13\> outn_msb\<12\> outn_msb\<11\> outn_msb\<10\> outn_msb\<9\> outn_msb\<8\> outn_msb\<7\> outn_msb\<6\> outn_msb\<5\> outn_msb\<4\> outn_msb\<3\> outn_msb\<2\> outn_msb\<1\> outn_msb\<0\> outp_lsb\<3\> outp_lsb\<2\> outp_lsb\<1\> outp_lsb\<0\> outp_msb\<14\> outp_msb\<13\> outp_msb\<12\> outp_msb\<11\> outp_msb\<10\> outp_msb\<9\> outp_msb\<8\> outp_msb\<7\> outp_msb\<6\> outp_msb\<5\> outp_msb\<4\> outp_msb\<3\> outp_msb\<2\> outp_msb\<1\> outp_msb\<0\> vbias_cs vbias_cs_cas vbias_sw_cas vdd 
	I0 ( net4 net3 net1 net2 gnd inn_lsb\<0\> inp_lsb\<0\> vbias_cs_cas vbias_cs outn_lsb\<0\> outp_lsb\<0\> vbias_sw_cas vdd ) cs_1  
	I10 ( net01 net02 net04 net03 gnd inn_lsb\<1\> inp_lsb\<1\> vbias_cs_cas vbias_cs outn_lsb\<1\> outp_lsb\<1\> vbias_sw_cas vdd ) cs_2  
	I15 ( net09 net010 net012 net011 gnd inn_lsb\<2\> inp_lsb\<2\> vbias_cs_cas vbias_cs outn_lsb\<2\> outp_lsb\<2\> vbias_sw_cas vdd ) cs_4  
	I20 ( net05 net06 net08 net07 gnd inn_lsb\<3\> inp_lsb\<3\> vbias_cs_cas vbias_cs outn_lsb\<3\> outp_lsb\<3\> vbias_sw_cas vdd ) cs_8  
	I25\<14\> ( net021\<0\> net024\<0\> net023\<0\> net022\<0\> gnd inn_msb\<14\> inp_msb\<14\> vbias_cs_cas vbias_cs outn_msb\<14\> outp_msb\<14\> vbias_sw_cas ) cs_16  
	I25\<13\> ( net021\<1\> net024\<1\> net023\<1\> net022\<1\> gnd inn_msb\<13\> inp_msb\<13\> vbias_cs_cas vbias_cs outn_msb\<13\> outp_msb\<13\> vbias_sw_cas ) cs_16  
	I25\<12\> ( net021\<2\> net024\<2\> net023\<2\> net022\<2\> gnd inn_msb\<12\> inp_msb\<12\> vbias_cs_cas vbias_cs outn_msb\<12\> outp_msb\<12\> vbias_sw_cas ) cs_16  
	I25\<11\> ( net021\<3\> net024\<3\> net023\<3\> net022\<3\> gnd inn_msb\<11\> inp_msb\<11\> vbias_cs_cas vbias_cs outn_msb\<11\> outp_msb\<11\> vbias_sw_cas ) cs_16  
	I25\<10\> ( net021\<4\> net024\<4\> net023\<4\> net022\<4\> gnd inn_msb\<10\> inp_msb\<10\> vbias_cs_cas vbias_cs outn_msb\<10\> outp_msb\<10\> vbias_sw_cas ) cs_16  
	I25\<9\> ( net021\<5\> net024\<5\> net023\<5\> net022\<5\> gnd inn_msb\<9\> inp_msb\<9\> vbias_cs_cas vbias_cs outn_msb\<9\> outp_msb\<9\> vbias_sw_cas ) cs_16  
	I25\<8\> ( net021\<6\> net024\<6\> net023\<6\> net022\<6\> gnd inn_msb\<8\> inp_msb\<8\> vbias_cs_cas vbias_cs outn_msb\<8\> outp_msb\<8\> vbias_sw_cas ) cs_16  
	I25\<7\> ( net021\<7\> net024\<7\> net023\<7\> net022\<7\> gnd inn_msb\<7\> inp_msb\<7\> vbias_cs_cas vbias_cs outn_msb\<7\> outp_msb\<7\> vbias_sw_cas ) cs_16  
	I25\<6\> ( net021\<8\> net024\<8\> net023\<8\> net022\<8\> gnd inn_msb\<6\> inp_msb\<6\> vbias_cs_cas vbias_cs outn_msb\<6\> outp_msb\<6\> vbias_sw_cas ) cs_16  
	I25\<5\> ( net021\<9\> net024\<9\> net023\<9\> net022\<9\> gnd inn_msb\<5\> inp_msb\<5\> vbias_cs_cas vbias_cs outn_msb\<5\> outp_msb\<5\> vbias_sw_cas ) cs_16  
	I25\<4\> ( net021\<10\> net024\<10\> net023\<10\> net022\<10\> gnd inn_msb\<4\> inp_msb\<4\> vbias_cs_cas vbias_cs outn_msb\<4\> outp_msb\<4\> vbias_sw_cas ) cs_16  
	I25\<3\> ( net021\<11\> net024\<11\> net023\<11\> net022\<11\> gnd inn_msb\<3\> inp_msb\<3\> vbias_cs_cas vbias_cs outn_msb\<3\> outp_msb\<3\> vbias_sw_cas ) cs_16  
	I25\<2\> ( net021\<12\> net024\<12\> net023\<12\> net022\<12\> gnd inn_msb\<2\> inp_msb\<2\> vbias_cs_cas vbias_cs outn_msb\<2\> outp_msb\<2\> vbias_sw_cas ) cs_16  
	I25\<1\> ( net021\<13\> net024\<13\> net023\<13\> net022\<13\> gnd inn_msb\<1\> inp_msb\<1\> vbias_cs_cas vbias_cs outn_msb\<1\> outp_msb\<1\> vbias_sw_cas ) cs_16  
	I25\<0\> ( net021\<14\> net024\<14\> net023\<14\> net022\<14\> gnd inn_msb\<0\> inp_msb\<0\> vbias_cs_cas vbias_cs outn_msb\<0\> outp_msb\<0\> vbias_sw_cas ) cs_16  
ends cs_array_8b 
subckt cs_driver_cml gnd in inb out outb vbias vdd 
	MP2b ( out inb net7 gnd ) nmos l=l_sw_driver w=w_sw_driver*m_sw_driver multi=1 nf=m_sw_driver sigma=1  
	MP2 ( outb in net7 gnd ) nmos l=l_sw_driver w=w_sw_driver*m_sw_driver multi=1 nf=m_sw_driver sigma=1  
	slave_driver_cs ( net7 vbias gnd gnd ) nmos l=l_cs_driver w=w_cs_driver*m_cs_driver multi=1 nf=m_cs_driver sigma=1  
	R1 ( vdd out ) resistor r=R_driver  
	R0 ( vdd outb ) resistor r=R_driver  
ends cs_driver_cml 
subckt CS_DAC gnd inn_lsb\<3\> inn_lsb\<2\> inn_lsb\<1\> inn_lsb\<0\> inn_msb\<14\> inn_msb\<13\> inn_msb\<12\> inn_msb\<11\> inn_msb\<10\> inn_msb\<9\> inn_msb\<8\> inn_msb\<7\> inn_msb\<6\> inn_msb\<5\> inn_msb\<4\> inn_msb\<3\> inn_msb\<2\> inn_msb\<1\> inn_msb\<0\> inp_lsb\<3\> inp_lsb\<2\> inp_lsb\<1\> inp_lsb\<0\> inp_msb\<14\> inp_msb\<13\> inp_msb\<12\> inp_msb\<11\> inp_msb\<10\> inp_msb\<9\> inp_msb\<8\> inp_msb\<7\> inp_msb\<6\> inp_msb\<5\> inp_msb\<4\> inp_msb\<3\> inp_msb\<2\> inp_msb\<1\> inp_msb\<0\> outn_lsb\<3\> outn_lsb\<2\> outn_lsb\<1\> outn_lsb\<0\> outn_msb\<14\> outn_msb\<13\> outn_msb\<12\> outn_msb\<11\> outn_msb\<10\> outn_msb\<9\> outn_msb\<8\> outn_msb\<7\> outn_msb\<6\> outn_msb\<5\> outn_msb\<4\> outn_msb\<3\> outn_msb\<2\> outn_msb\<1\> outn_msb\<0\> outp_lsb\<3\> outp_lsb\<2\> outp_lsb\<1\> outp_lsb\<0\> outp_msb\<14\> outp_msb\<13\> outp_msb\<12\> outp_msb\<11\> outp_msb\<10\> outp_msb\<9\> outp_msb\<8\> outp_msb\<7\> outp_msb\<6\> outp_msb\<5\> outp_msb\<4\> outp_msb\<3\> outp_msb\<2\> outp_msb\<1\> outp_msb\<0\> vbias_cs vbias_cs_cas vbias_cs_driver vbias_sw_cas vdd 
	I30 ( gnd inn_lsb_m\<3\> inn_lsb_m\<2\> inn_lsb_m\<1\> inn_lsb_m\<0\> inn_msb_m\<14\> inn_msb_m\<13\> inn_msb_m\<12\> inn_msb_m\<11\> inn_msb_m\<10\> inn_msb_m\<9\> inn_msb_m\<8\> inn_msb_m\<7\> inn_msb_m\<6\> inn_msb_m\<5\> inn_msb_m\<4\> inn_msb_m\<3\> inn_msb_m\<2\> inn_msb_m\<1\> inn_msb_m\<0\> inp_lsb_m\<3\> inp_lsb_m\<2\> inp_lsb_m\<1\> inp_lsb_m\<0\> inp_msb_m\<14\> inp_msb_m\<13\> inp_msb_m\<12\> inp_msb_m\<11\> inp_msb_m\<10\> inp_msb_m\<9\> inp_msb_m\<8\> inp_msb_m\<7\> inp_msb_m\<6\> inp_msb_m\<5\> inp_msb_m\<4\> inp_msb_m\<3\> inp_msb_m\<2\> inp_msb_m\<1\> inp_msb_m\<0\> outn_lsb\<3\> outn_lsb\<2\> outn_lsb\<1\> outn_lsb\<0\> outn_msb\<14\> outn_msb\<13\> outn_msb\<12\> outn_msb\<11\> outn_msb\<10\> outn_msb\<9\> outn_msb\<8\> outn_msb\<7\> outn_msb\<6\> outn_msb\<5\> outn_msb\<4\> outn_msb\<3\> outn_msb\<2\> outn_msb\<1\> outn_msb\<0\> outp_lsb\<3\> outp_lsb\<2\> outp_lsb\<1\> outp_lsb\<0\> outp_msb\<14\> outp_msb\<13\> outp_msb\<12\> outp_msb\<11\> outp_msb\<10\> outp_msb\<9\> outp_msb\<8\> outp_msb\<7\> outp_msb\<6\> outp_msb\<5\> outp_msb\<4\> outp_msb\<3\> outp_msb\<2\> outp_msb\<1\> outp_msb\<0\> vbias_cs vbias_cs_cas vbias_sw_cas vdd ) cs_array_8b  
	I31\<18\> ( gnd inp_msb\<14\> inn_msb\<14\> inp_msb_m\<14\> inn_msb_m\<14\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<17\> ( gnd inp_msb\<13\> inn_msb\<13\> inp_msb_m\<13\> inn_msb_m\<13\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<16\> ( gnd inp_msb\<12\> inn_msb\<12\> inp_msb_m\<12\> inn_msb_m\<12\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<15\> ( gnd inp_msb\<11\> inn_msb\<11\> inp_msb_m\<11\> inn_msb_m\<11\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<14\> ( gnd inp_msb\<10\> inn_msb\<10\> inp_msb_m\<10\> inn_msb_m\<10\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<13\> ( gnd inp_msb\<9\> inn_msb\<9\> inp_msb_m\<9\> inn_msb_m\<9\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<12\> ( gnd inp_msb\<8\> inn_msb\<8\> inp_msb_m\<8\> inn_msb_m\<8\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<11\> ( gnd inp_msb\<7\> inn_msb\<7\> inp_msb_m\<7\> inn_msb_m\<7\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<10\> ( gnd inp_msb\<6\> inn_msb\<6\> inp_msb_m\<6\> inn_msb_m\<6\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<9\> ( gnd inp_msb\<5\> inn_msb\<5\> inp_msb_m\<5\> inn_msb_m\<5\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<8\> ( gnd inp_msb\<4\> inn_msb\<4\> inp_msb_m\<4\> inn_msb_m\<4\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<7\> ( gnd inp_msb\<3\> inn_msb\<3\> inp_msb_m\<3\> inn_msb_m\<3\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<6\> ( gnd inp_msb\<2\> inn_msb\<2\> inp_msb_m\<2\> inn_msb_m\<2\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<5\> ( gnd inp_msb\<1\> inn_msb\<1\> inp_msb_m\<1\> inn_msb_m\<1\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<4\> ( gnd inp_msb\<0\> inn_msb\<0\> inp_msb_m\<0\> inn_msb_m\<0\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<3\> ( gnd inp_lsb\<3\> inn_lsb\<3\> inp_lsb_m\<3\> inn_lsb_m\<3\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<2\> ( gnd inp_lsb\<2\> inn_lsb\<2\> inp_lsb_m\<2\> inn_lsb_m\<2\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<1\> ( gnd inp_lsb\<1\> inn_lsb\<1\> inp_lsb_m\<1\> inn_lsb_m\<1\> vbias_cs_driver vdd ) cs_driver_cml  
	I31\<0\> ( gnd inp_lsb\<0\> inn_lsb\<0\> inp_lsb_m\<0\> inn_lsb_m\<0\> vbias_cs_driver vdd ) cs_driver_cml  
ends CS_DAC 
	I20 ( 0 inn_lsb\<3\> inn_lsb\<2\> inn_lsb\<1\> inn_lsb\<0\> inn_msb\<14\> inn_msb\<13\> inn_msb\<12\> inn_msb\<11\> inn_msb\<10\> inn_msb\<9\> inn_msb\<8\> inn_msb\<7\> inn_msb\<6\> inn_msb\<5\> inn_msb\<4\> inn_msb\<3\> inn_msb\<2\> inn_msb\<1\> inn_msb\<0\> inp_lsb\<3\> inp_lsb\<2\> inp_lsb\<1\> inp_lsb\<0\> inp_msb\<14\> inp_msb\<13\> inp_msb\<12\> inp_msb\<11\> inp_msb\<10\> inp_msb\<9\> inp_msb\<8\> inp_msb\<7\> inp_msb\<6\> inp_msb\<5\> inp_msb\<4\> inp_msb\<3\> inp_msb\<2\> inp_msb\<1\> inp_msb\<0\> DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutn DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp DACoutp vbias_cs vbias_cs_cas vbias_cs_driver vbias_sw_cas vdd ) CS_DAC  
	R0 ( vdd_cell DACoutp ) resistor r=R  
	V4 ( vdd_cell DACoutn ) resistor r=R  
	V10 ( vbias_cs_driver 0 ) vsource dc=vbias_cs_driver type=dc  
	V9 ( vdd 0 ) vsource dc=vdd type=dc  
	V7 ( vbias_cs 0 ) vsource dc=vbias_cs type=dc  
	V2 ( vbias_sw_cas 0 ) vsource dc=vbias_SW_cas type=dc  
	V1 ( vbias_cs_cas 0 ) vsource dc=vbias_cs_cas type=dc  
	V0 ( vdd_cell 0 ) vsource dc=2.5 type=dc  
	V5 ( analog_in 0 ) vsource dc=os_sine type=sine ampl=amp_sine freq=freq_sine  
	I10 ( msb\<3\> msb\<2\> msb\<1\> msb\<0\> inp_lsb\<3\> inp_lsb\<2\> inp_lsb\<1\> inp_lsb\<0\> msbb\<3\> msbb\<2\> msbb\<1\> msbb\<0\> inn_lsb\<3\> inn_lsb\<2\> inn_lsb\<1\> inn_lsb\<0\> analog_in clk_sample ) adc_8bit_ideal trise=trise tfall=tfall tdel=0 vlogic_high=v_high vlogic_low=v_high-v_swing vtrans_clk=vdd/2 vref=adcfullscal  
	V3 ( clk_sample 0 ) vsource type=pulse val0=vdd val1=0 period=1/fs rise=trise fall=tfall width=1/fs/2-trise  
	I18\<7\> ( msb\<3\> inp_msb\<14\> ) iprobe  
	I18\<6\> ( msb\<3\> inp_msb\<13\> ) iprobe  
	I18\<5\> ( msb\<3\> inp_msb\<12\> ) iprobe  
	I18\<4\> ( msb\<3\> inp_msb\<11\> ) iprobe  
	I18\<3\> ( msb\<3\> inp_msb\<10\> ) iprobe  
	I18\<2\> ( msb\<3\> inp_msb\<9\> ) iprobe  
	I18\<1\> ( msb\<3\> inp_msb\<8\> ) iprobe  
	I18\<0\> ( msb\<3\> inp_msb\<7\> ) iprobe  
	I17\<7\> ( msbb\<3\> inn_msb\<14\> ) iprobe  
	I17\<6\> ( msbb\<3\> inn_msb\<13\> ) iprobe  
	I17\<5\> ( msbb\<3\> inn_msb\<12\> ) iprobe  
	I17\<4\> ( msbb\<3\> inn_msb\<11\> ) iprobe  
	I17\<3\> ( msbb\<3\> inn_msb\<10\> ) iprobe  
	I17\<2\> ( msbb\<3\> inn_msb\<9\> ) iprobe  
	I17\<1\> ( msbb\<3\> inn_msb\<8\> ) iprobe  
	I17\<0\> ( msbb\<3\> inn_msb\<7\> ) iprobe  
	I14\<1\> ( msb\<1\> inp_msb\<2\> ) iprobe  
	I14\<0\> ( msb\<1\> inp_msb\<1\> ) iprobe  
	I11 ( msb\<0\> inp_msb\<0\> ) iprobe  
	I12 ( msbb\<0\> inn_msb\<0\> ) iprobe  
	I13\<1\> ( msbb\<1\> inn_msb\<2\> ) iprobe  
	I13\<0\> ( msbb\<1\> inn_msb\<1\> ) iprobe  
	I15\<3\> ( msbb\<2\> inn_msb\<6\> ) iprobe  
	I15\<2\> ( msbb\<2\> inn_msb\<5\> ) iprobe  
	I15\<1\> ( msbb\<2\> inn_msb\<4\> ) iprobe  
	I15\<0\> ( msbb\<2\> inn_msb\<3\> ) iprobe  
	I16\<3\> ( msb\<2\> inp_msb\<6\> ) iprobe  
	I16\<2\> ( msb\<2\> inp_msb\<5\> ) iprobe  
	I16\<1\> ( msb\<2\> inp_msb\<4\> ) iprobe  
	I16\<0\> ( msb\<2\> inp_msb\<3\> ) iprobe  
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on nthreads=4 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf colonasdelimiter=none 
tran tran stop=210n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save DACoutn DACoutp vdd_cell V0:p V4:1 R0:1 
saveOptions options save=selected
ahdl_include "/home/shiyusu1/workarea_TSMC65_9M/AMPSE_DAC_2019/adc_8bit_ideal/veriloga/veriloga.va"
